US05783572
A mixture of t-butyl (2-nitro-3,5,6-trichlorophenyl)acetate (123 g, 0.361 mol) and saturated aqueous ammonia (300 mL) in 2-methoxy ethanol (360 mL) was heated in an autoclave at 150° C. for 72 hours. The resulting viscous, black mixture was diluted with water (1 L) and ethyl acetate (1 L) and filtered through Arbocel filter aid. The dark red filtrate was separated, and the aqueous layer extracted with ethyl acetate (2×1 L). The combined organic solutions were washed with brine (1 L), dried (MgSO4) and evaporated onto silica gel (70-200μ, 200 g). The silica gel was applied to the top of a chromatography column containing silica gel (40-60 μ, 800 g). Elution with hexane/ethyl acetate (98:2-92:8) gave 3-amino-5,6-dichloro-2-nitrotoluene (EP-A-0385850) as a bright orange solid (39.7 g), which was contaminated with 5-amino-3,6-dichloro-2-nitrotoluene (14%). This mixture was carried onto the next step without further purification. 1H NMR (300 MD, CDCl3) 2.48 (3H, s), 4.80 (2H, s), 6.82 (1H, s).

reactant | t-butyl (2-nitro-3,5,6-trichlorophenyl)acetate | 0.361 mol, 123 g | [N+](=O)([O-])C1=C(C(=C(C=C1Cl)Cl)Cl)CC(=O)OC(C)(C)C | C12H12Cl3NO4
reactant | ammonia | 300 mL | N | H3N
solvent | 2-methoxy ethanol | 360 mL | COCCO | C3H8O2
solvent | water | 1 L | O | H2O
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
product | 3-amino-5,6-dichloro-2-nitrotoluene | 39.7 g | NC=1C(=C(C(=C(C1)Cl)Cl)C)[N+](=O)[O-] | C7H6Cl2N2O2
